US03998966
A suspension of 2.4 g. of sodium hydride and 50 ml. of benzene is added to a mixture of 23 g. of 6-fluoro-2-naphthyl-α-methylacetic acid and 450 ml. of benzene. The resulting mixture is stirred for four hours. The mixture is cooled to 0° C and 19 g. of oxalyl chloride are added; after the addition, the mixture is allowed to stand for 4 hours. The resulting mixture is then saturated with ammonia and allowed to stand for 8 hours. This mixture is then evaporated under reduced pressure. The residue is taken up in methylene chloride, washed with water to neutrality, dried, filtered, and evaporated to give 6-fluoro-2-naphthyl-α-methylacetamide.

reactant | sodium hydride | [H-].[Na+]
reactant | 6-fluoro-2-naphthyl-α-methylacetic acid | FC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C13H11FO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-fluoro-2-naphthyl-α-methylacetamide | FC=1C=C2C=CC(=CC2=CC1)C(C(=O)N)C | C13H12FNO
